US04372959
20,8 g pulverized 3-methylxanthine was added in portions to a freshly prepared solution of 2,86 g sodium in 125 ml absolute ethanol and heated under reflux to give the 3-methylxanthine sodium salt. 17,3 g chloroacetone in 125 ml absolute ethanol was then added dropwise, and the reaction mixture was heated under reflux for four hours. After cooling, the precipitate was filtered off and then dissolved in dilute aqueous sodium hydroxide solution.

reactant | 3-methylxanthine | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | sodium | 2,86 g | [Na] | Na
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 3-methylxanthine sodium salt | [Na].CN1C(NC(C=2NC=NC12)=O)=O | InChI=1S/C6H6N4O2.Na/c1-10-4-3(7-2-8-4)5(11)9-6(10)12;/h2H,1H3,(H,7,8)(H,9,11,12);
